US06596727B1
4-(cis-4-Phenyl-cyclohexyloxy)-5,6,7,8-tetrahydroquinazoline
0.5 g (16.7 mmol) of 80% NaH was added in portions to a solution of 1.85 g (105 mmol) of cis-4-phenylcyclohexanol in 30 ml of absolute THF. After this, the mixture was heated for 1 hour at 50° C., and 1.5 g (8.75 mmol) of 4-chloro-5,6,7,8-tetrahydroquinazoline, dissolved in 15 ml of absolute THF, were added dropwise. The reaction mixture was subsequently refluxed for 2 hours. After the mixture has cooled to room temperature, it was poured into saturated NH4Cl solution and this was extracted with ether, and the combined organic phase was dried over MgSO4. The solvent was evaporated in vacuo, and the residue (2.7 g) was purified by flash chromatography over silica gel, using n-hexane/ethyl acetate (2:1). Concentration gave 1.5 g (50.2% of theory), colorless crystals, m.p. 109° C.

reactant | NaH | 16.7 mmol, 0.5 g | [H-].[Na+]
reactant | cis-4-phenylcyclohexanol | 105 mmol, 1.85 g | C1(=CC=CC=C1)[C@H]1CC[C@H](CC1)O | C12H16O
reactant | 4-chloro-5,6,7,8-tetrahydroquinazoline | 8.75 mmol, 1.5 g | ClC1=NC=NC=2CCCCC12 | C8H9ClN2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 4-(cis-4-Phenyl-cyclohexyloxy)-5,6,7,8-tetrahydroquinazoline | C1(=CC=CC=C1)[C@H]1CC[C@H](CC1)OC1=NC=NC=2CCCCC12 | C20H24N2O
